* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 16.3
R1 n1 a 3
R2 a nc 4
V2 nc nd DC 32.2
R3 nd ne 2
V3 b ne DC 18.8
V4 nf b DC 10.7
R4 nf 0 1
.op
.print dc V(a) V(b)
.end